US05310743
c) (2R*,4S*)-2-Benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine
615 mg (1.25 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine are reacted with 1.9 ml (25 mmol) of trifluoroacetic acid in analogy to Example 38d. The title compound is obtained as oil (308 mg, 63%). TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.63, FD-MS: M+ =390.

reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | 1.25 mmol, 615 mg | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H33F3N2O3
reactant | trifluoroacetic acid | 25 mmol, 1.9 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2R*,4S*)-2-Benzyl-N-(2-phenylethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CCC1=CC=CC=C1 | C22H25F3N2O
